US04165377
Biguanide (1.01 g.) was stirred in dry dimethylformamide (15 ml.) and N-(6-bromo-5-oxohexyl)phthalimide (1.5 g.) added. The mixture was stirred for 3 hours, acetic acid (5 ml.) was then added and the total reaction mixture evaporated to dryness. The residue was dissolved in water (10 ml.) and extracted with ethyl acetate (5×20 ml.). The combined ethyl acetate extracts were evaporated to give a brown foam which was purified by column chromatography on silica gel using chloroform/methanol/ammonia (s.g. 0.880) 80:20:0.5 v/v/v. The appropriate fractions were evaporated to give 2-guanidino-4-(4-phthalimidobutyl)imidazole as a brown foam (0.3 g.).

reactant | Biguanide | 1.01 g | NC(=N)NC(=N)N | C2H7N5
reactant | N-(6-bromo-5-oxohexyl)phthalimide | 1.5 g | BrCC(CCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H14BrNO3
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-guanidino-4-(4-phthalimidobutyl)imidazole | N(C(=N)N)C=1NC=C(N1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H18N6O2
